US05780483
Synthesis of N-(2-(8-quinolinyl sulfonyl amino) phenyl) N'-(2-bromo phenyl)urea
The urea was synthesized from 2-((8-quinolinyl) sulfonyl amino) aniline(11 mmol) and 2-bromo phenyl isocyanate(1 mmol) by general Method B. It was purified by dilution with methylene chloride and precipitation with hexane. Filtering afforded the desired compound(0.23 g, 46%).EI-MS m/z 495(M-H)-

reactant | 2-((8-quinolinyl) sulfonyl amino) aniline | 11 mmol | N1=CC=CC2=CC=CC(=C12)S(=O)(=O)NC1=C(N)C=CC=C1 | C15H13N3O2S
reactant | 2-bromo phenyl isocyanate | 1 mmol | BrC1=C(C=CC=C1)N=C=O | C7H4BrNO
product | N-(2-(8-quinolinyl sulfonyl amino) phenyl) N'-(2-bromo phenyl)urea | 0.23 g, 46% | N1=CC=CC2=CC=CC(=C12)S(=O)(=O)NC1=C(C=CC=C1)NC(=O)NC1=C(C=CC=C1)Br | C22H17BrN4O3S
